US04205085
(Pentadecafluoroheptyl)(trifluoromethanesulfonyloxy)methane
A mixture of 40 g of (pentadecafluoroheptyl)methanol, 11 g. of triethylamine, and 200 ml. of methylene chloride is stirred at -20° C. while a solution of 18 g. of trifluoromethanesulfonyl chloride in 50 ml. of methylene chloride is added. The solution is stirred for one hour at room temperature and then washed with ice-cold 10% hydrochloric acid, saturated aqueous sodium bicarbonate solution, and water; dried over anhydrous magnesium sulfate; and evaporated. The residual brown liquid is distilled to yield the product as a colorless liquid.

reactant | (pentadecafluoroheptyl)methanol | 40 g | FC(C(C(C(C(C(F)(F)CO)(F)F)(F)F)(F)F)(F)F)(C(F)(F)F)F | C8H3F15O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonyl chloride | FC(S(=O)(=O)Cl)(F)F | CClF3O2S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (Pentadecafluoroheptyl)(trifluoromethanesulfonyloxy)methane | FC(C(C(C(C(C(F)(F)COS(=O)(=O)C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(C(F)(F)F)F | C9H2F18O3S
